US08859768B2
A solution of 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid (0.50 g, 1.34 mmol) in DCM (15 mL) and DMF (0.05 mL) was allowed to stir at 0° C. To this solution was added oxalyl chloride (0.23 mL, 2.69 mmol) dropwise. The reaction mixture was allowed to stir at 0° C. for 15 minutes and then allowed to warm to rt and stir for 2 hr. The reaction mixture was concentrated, and then DCM (15 mL) and TEA (0.38 mL, 2.69 mmol) were added. The reaction mixture was allowed to stir at 0° C. and a solution of 2,2-dimethoxyethanamine (0.29 mL, 2.69 mmol) in DCM (5 mL) was added dropwise. The reaction mixture was allowed to warm to rt and to stir overnight and then concentrated. The residue was redissolved in water and EtOAc. The organic solution was separated and the aqueous solution was further extracted with EtOAc. The organic solutions were combined, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-(2,2-dimethoxyethyl)-1,3-oxazole-4-carboxamide (0.226 g, 37%). LCMS (FA): m/z=459 (M+H).

reactant | 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid | 1.34 mmol, 0.50 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)O)C1=C(C=CC=C1)Cl)C | C18H14ClN3O4
reactant | oxalyl chloride | 2.69 mmol, 0.23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,2-dimethoxyethanamine | 2.69 mmol, 0.29 mL | COC(CN)OC | C4H11NO2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.05 mL | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-(2,2-dimethoxyethyl)-1,3-oxazole-4-carboxamide | 0.226 g, 37% | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)NCC(OC)OC)C1=C(C=CC=C1)Cl)C | C22H23ClN4O5
